US07071189B2
2-(2-methoxycarbonylaminobenzimidazol-1-yl)-4,6-dimorpholino-1,3,5-triazine (compound 29)
0.19 g (0.50 mmol) of 2-(2-aminobenzimidazol-1-yl)-4,6-dimorpholino-1,3,5-triazine synthesized in (1) of the Example 6 and 60% sodium hydride (24 mg, 0.60 mmol) added to DMF (2 ml) were reacted at room temperature for 1 hour. The reaction mixture was added and reacted with 0.040 ml (0.55 mmol) of chloromethylformate at room temperature for 16 hours. The reaction solution was poured into water and extracted with methyl acetate. The organic layer was separated, washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography to obtain 100 mg (yield: 46%) of the titled compound as colorless crystals.

reactant | 2-(2-aminobenzimidazol-1-yl)-4,6-dimorpholino-1,3,5-triazine | 0.50 mmol, 0.19 g | NC1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCOCC1)C=CC=C2 | C18H22N8O2
reactant | sodium hydride | 0.60 mmol, 24 mg | [H-].[Na+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | chloromethylformate | 0.55 mmol, 0.040 ml | ClCOC=O | C2H3ClO2
solvent | water | O | H2O
product | 2-(2-methoxycarbonylaminobenzimidazol-1-yl)-4,6-dimorpholino-1,3,5-triazine | 100 mg, yield: 46% | COC(=O)NC1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCOCC1)C=CC=C2 | C20H24N8O4
